US07981874B2
4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester.
To a solution of 4-[benzylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester (0.40 g, 1.100 mmol) in anhydrous MeOH (14.7 mL) was added BOC anhydride (0.36 g, 1.65 mmol), and 10 mol % Pd on carbon (12 mg, 0.11 mmol). The solution was degassed with alternating vacuum and hydrogen gas (4×). The reaction mixture was stirred at ambient temperature under 1 atm of hydrogen. After stirring for 18 hours the reaction mixture was degassed with alternating vacuum and argon gas, then filtered through a nylon syringe filter and the filtrate was concentrated in vacuo. The residue contained residual BOC anhydride and was purified by MPLC (545% EtOAc in CH2Cl2) to give the title compound: MS: cal'd 374 (MH+), exp (MH+)

reactant | 4-[benzylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester | 1.100 mmol, 0.40 g | COC(C1=CC=C(C=C1)C(P(=O)(OC)OC)NCC1=CC=CC=C1)=O | C18H22NO5P
reactant | BOC anhydride | 1.65 mmol, 0.36 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 14.7 mL | CO | CH4O
catalyst | Pd on carbon | 0.11 mmol, 12 mg | [Pd] | Pd
product | 4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(P(=O)(OC)OC)NC(=O)OC(C)(C)C)=O | C16H24NO7P
